US08937077B2
To a solution of 4-[(3aR,7aR)-octahydro-1H-pyrrolo[3,2-b]pyridin-1-yl]-7H-pyrrolo[2,3-d]pyrimidine (12 mg, 0.049 mmol) in acetonitrile (493 tip was added DMAP (9.0 mg, 0.074 mmol) and DIPEA (17 μL, 0.099 mmol) followed by isopropylsulfonyl chloride (12 mg, 0.049 mmol). The reaction mixture was stirred for 20 hours at room temperature before being diluted with 1.0 mL DMSO and purified by mass-triggered reverse-phase HPLC using a Waters X-bridge Prep C18 column (5 micron, 19×100 mm), eluting with an ACN/water gradient (0.1% formic acid as modifier) to afford 4-{(3aR,7aR)-4-[(1-methylethyl)sulfonyl]octahydro-1H-pyrrolo[3,2-b]pyridin-1-yl}-7H-pyrrolo[2,3-d]pyrimidine. LRMS calc'd for C16H24N5O2S [M+H]+, 350.2; found 350.2. 1H NMR (500 MHz, DMSO-D6) δ 11.6 (s, 1H); 8.04 (s, 1H); 7.09 (s, 1H), 6.51 (s, 2H); 4.29 (br s, 2H); 3.97-3.64 (br m, 21-1); 3.53 (d, 2H, J=11Hz); 3.38-3.34 (m, 1H); 3.02 (t, 1H. J=10Hz); 2.01 (br s, 1H); 1.64 (s, 1H), 1.62 (br s, 1H), 1.24-1.54 (br m, 2H). 1.21 (t, 6H, J=5.5Hz). Jak1 activity: ++

reactant | 4-[(3aR,7aR)-octahydro-1H-pyrrolo[3,2-b]pyridin-1-yl]-7H-pyrrolo[2,3-d]pyrimidine | 0.049 mmol, 12 mg | N1(CC[C@H]2NCCC[C@H]21)C=2C1=C(N=CN2)NC=C1 | C13H17N5
reactant | DIPEA | 0.099 mmol, 17 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylsulfonyl chloride | 0.049 mmol, 12 mg | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | DMAP | 0.074 mmol, 9.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 4-{(3aR,7aR)-4-[(1-methylethyl)sulfonyl]octahydro-1H-pyrrolo[3,2-b]pyridin-1-yl}-7H-pyrrolo[2,3-d]pyrimidine | CC(C)S(=O)(=O)N1[C@H]2[C@@H](CCC1)N(CC2)C=2C1=C(N=CN2)NC=C1 | C16H23N5O2S
